US04020072
(c) 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester
A mixture of 24.9 g. 1-ethyl-4-hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester (0.1 mol.) and 150 ml. of phosphorus oxychloride is refluxed for 4 hours. The excess phosphorus oxychloride is removed by means of vacuum distillation. As soon as the phosphorus oxychloride has been removed, the oily residue solidifies on cooling. It is treated with water and filtered under suction (25 g., m.p. 70°-74°). The 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester is recrystallized from cyclohexane, yield 22.8 g. (85%), m.p. 78°-79°.

reactant | 1-ethyl-4-hydroxy-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | 0.1 mol | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2C)CC)O | C12H15N3O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2C)CC)Cl | C12H14ClN3O2
